data/polar.json
{"reaction_name": "Phospha-Michael addition", "rsmi": "[O:1]=[C:45]1[N:5]([CH3:39])[C:41](=[O:7])[N:6]([CH3:40])[C:46](=[O:2])[C:14]1=[CH:19][c:8]1[cH:47][cH:3][c:15]([O:13][CH3:9])[cH:4][cH:48]1.[c:10]1([P:38]([c:11]2[cH:21][cH:27][c:43]([N:17]([CH3:34])[CH3:35])[cH:28][cH:22]2)[c:12]2[cH:23][cH:29][c:44]([N:18]([CH3:36])[CH3:37])[cH:30][cH:24]2)[cH:20][cH:26][c:42]([N:16]([CH3:32])[CH3:33])[cH:31][cH:25]1>>[O-:1][c:45]1[n:5]([CH3:39])[c:41](=[O:7])[n:6]([CH3:40])[c:46](=[O:2])[c:14]1[CH:19]([c:8]1[cH:47][cH:3][c:15]([O:13][CH3:9])[cH:4][cH:48]1)[P+:38]([c:10]1[cH:20][cH:26][c:42]([N:16]([CH3:32])[CH3:33])[cH:31][cH:25]1)([c:11]1[cH:21][cH:27][c:43]([N:17]([CH3:34])[CH3:35])[cH:28][cH:22]1)[c:12]1[cH:23][cH:29][c:44]([N:18]([CH3:36])[CH3:37])[cH:30][cH:24]1", "epd": [["LP-/Sigma+", [38], [38, 19]], ["Pi-/Pi+", [19, 14], [14, 45]], ["Pi-/LP+", [45, 1], [1]]]}
{"reaction_name": "Horner–Wittig reaction", "rsmi": "[C:2]([CH2:3][C:5]([H:4])=[O:6])#[N:7].[CH2:1]=[P:11]([CH3:8])([CH3:9])[CH3:10]>>[CH2:1]=[C:5]([CH2:3][C:2]#[N:7])[H:4].[O:6]=[P:11]([CH3:8])([CH3:9])[CH3:10]", "epd": [["Pi-/Sigma+", [1, 11], [6, 11]], ["Pi-/Sigma+", [5, 6], [1, 5]], ["Sigma-/Pi+", [1, 11], [1, 5]], ["Sigma-/Pi+", [5, 6], [6, 11]]]}
{"reaction_name": "General nucleophilic addition to a neutral imine", "rsmi": "[CH3:1][CH:12]([CH3:2])[N+:27]1=[N:28][N:26]([CH:7]([CH3:29])[CH3:30])[C:31](=[CH2:25])[C-:8]1[C:11]([CH3:34])([CH3:35])[CH3:36].[cH:3]1[cH:13][cH:17][cH:16][cH:6][c:23]1[P:10](=[O:19])([c:24]1[cH:4][cH:14][cH:18][cH:15][cH:5]1)[N:32]=[CH:9][c:20]1[cH:37][cH:21][cH:33][cH:22][cH:38]1>>[CH3:1][CH:12]([CH3:2])[n+:27]1[c:8]([C:11]([CH3:34])([CH3:35])[CH3:36])[c:31]([CH2:25][CH:9]([c:20]2[cH:37][cH:21][cH:33][cH:22][cH:38]2)[N:32]=[P:10]([O-:19])([c:23]2[cH:3][cH:13][cH:17][cH:16][cH:6]2)[c:24]2[cH:4][cH:14][cH:18][cH:15][cH:5]2)[n:26]([CH:7]([CH3:29])[CH3:30])[n:28]1", "epd": [["LP-/Pi+", [8], [31, 8]], ["Pi-/Sigma+", [25, 31], [25, 9]], ["Pi-/Pi+", [9, 32], [32, 10]], ["Pi-/LP+", [10, 19], [19]]]}
{"reaction_name": "Thia-Michael addition", "rsmi": "[S:3]([c:8]1[cH:20][cH:12][cH:10][cH:15][cH:23]1)([C:18]([S:4]([c:9]1[cH:21][cH:13][cH:11][cH:14][cH:22]1)(=[O:27])=[O:28])=[CH2:6])(=[O:29])=[O:30].[cH:1]1[c:19]2[cH:17][cH:31][c:25]([S-:5])[cH:16][c:26]2[cH:7][cH:2][cH:24]1>>[cH:1]1[c:19]2[cH:17][cH:31][c:25]([S:5][CH2:6][C-:18]([S:3]([c:8]3[cH:20][cH:12][cH:10][cH:15][cH:23]3)(=[O:29])=[O:30])[S:4]([c:9]3[cH:21][cH:13][cH:11][cH:14][cH:22]3)(=[O:27])=[O:28])[cH:16][c:26]2[cH:7][cH:2][cH:24]1", "epd": [["LP-/Sigma+", [5], [5, 6]], ["Pi-/LP+", [6, 18], [18]]]}
{"reaction_name": "Cyclic sulfate opening", "rsmi": "[O:1]=[S:5]1(=[O:2])[O:7][CH2:3][CH2:4][O:8]1.[OH-:6]>>[O:1]=[S:5](=[O:2])([O-:7])[O:8][CH2:4][CH2:3][OH:6]", "epd": [["LP-/Sigma+", [6], [3, 6]], ["Sigma-/LP+", [3, 7], [7]]]}
{"reaction_name": "General nucleophilic addition to a neutral imine", "rsmi": "[C:1]([O:11][C:23](=[O:8])[N:19]=[CH:10][c:5]1[cH:3][cH:15][cH:18][cH:16][cH:4]1)([CH3:20])([CH3:21])[CH3:22].[CH:2]1=[CH:6][c:7]2[cH:13][cH:12][cH:24][cH:9][c:14]2[CH:25]1[Na:17]>>[C:1]([O:11][C:23]([O-:8])=[N:19][CH:10]([c:5]1[cH:3][cH:15][cH:18][cH:16][cH:4]1)[CH:25]1[CH:2]=[CH:6][c:7]2[cH:13][cH:12][cH:24][cH:9][c:14]21)([CH3:20])([CH3:21])[CH3:22].[Na+:17]", "epd": [["Sigma-/Sigma+", [25, 17], [25, 10]], ["Pi-/Pi+", [10, 19], [19, 23]], ["Pi-/LP+", [23, 8], [8]]]}
{"reaction_name": "Phospha-Michael addition", "rsmi": "[C:1](#[N:9])[C:35]([C:2]#[N:10])=[CH:3][c:39]1[cH:7][cH:20][cH:40][cH:21][cH:8]1.[c:4]1([P:34]([c:5]2[cH:15][cH:23][c:37]([N:12]([CH3:30])[CH3:31])[cH:24][cH:16]2)[c:6]2[cH:17][cH:25][c:38]([N:13]([CH3:32])[CH3:33])[cH:26][cH:18]2)[cH:14][cH:22][c:36]([N:11]([CH3:28])[CH3:29])[cH:27][cH:19]1>>[C:1](=[N-:9])=[C:35]([C:2]#[N:10])[CH:3]([P+:34]([c:4]1[cH:14][cH:22][c:36]([N:11]([CH3:28])[CH3:29])[cH:27][cH:19]1)([c:5]1[cH:15][cH:23][c:37]([N:12]([CH3:30])[CH3:31])[cH:24][cH:16]1)[c:6]1[cH:17][cH:25][c:38]([N:13]([CH3:32])[CH3:33])[cH:26][cH:18]1)[c:39]1[cH:7][cH:20][cH:40][cH:21][cH:8]1", "epd": [["LP-/Sigma+", [34], [34, 3]], ["Pi-/Pi+", [3, 35], [35, 1]], ["Pi-/LP+", [1, 9], [9]]]}
